US06440995B1
4-Chloro-2-chroman-6-yl-quinoline
The title compound, MS: m/e=295 (M+), was prepared from 4-chloro-quinoline and 6-bromo-chroman.

reactant | 4-chloro-quinoline | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
reactant | 6-bromo-chroman | BrC=1C=C2CCCOC2=CC1 | C9H9BrO
product | 4-Chloro-2-chroman-6-yl-quinoline | ClC1=CC(=NC2=CC=CC=C12)C=1C=C2CCCOC2=CC1 | C18H14ClNO
